US07417047B2
To a solution of [(3-bromophenyl)ethynyl](trimethyl)silane (2.28 g, 9.0 mmol) in DME (150 mL) is added (2-fluoropyridin-3-yl)boronic acid (1.41 g, 10.0 mmol), tetrakis(triphenylphosphine)palladium (0.52 g, 0.5 mmol) and a solution of sodium carbonate (3.8 g, 36.0 mmol) in H2O (15 mL) at room temperature. After refluxing for 3 h, the reaction mixture is cooled, quenched with saturated sodium carbonate, diluted with EtOAc. The two layers are separated and the aqueous layer is extracted with EtOAc. The combined organic extracts are washed with brine, dried (MgSO4) and concentrated. The crude mixture is purified by chromatography (silica gel, EtOAc/hexane: 5/95) to give the 2-fluoro-3-{3-[(trimethylsilyl)ethynyl]phenyl}pyridine (2.25 g, 91%) as an oil. MS(+) APPI: 270 (M+H)+.

reactant | [(3-bromophenyl)ethynyl](trimethyl)silane | 9.0 mmol, 2.28 g | BrC=1C=C(C=CC1)C#C[Si](C)(C)C | C11H13BrSi
reactant | (2-fluoropyridin-3-yl)boronic acid | 10.0 mmol, 1.41 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 36.0 mmol, 3.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 150 mL | COCCOC | C4H10O2
solvent | H2O | 15 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.5 mmol, 0.52 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-3-{3-[(trimethylsilyl)ethynyl]phenyl}pyridine | 2.25 g, 91% | FC1=NC=CC=C1C1=CC(=CC=C1)C#C[Si](C)(C)C | C16H16FNSi
